US06630463B2
Methyl 4-trifluromethanesulfonyloxy-8-isopropylquinoline-2-carboxylate
In 100 ml of dichloromethane were dissolved 4.2 g of methyl 8-isopropylquinolone-2-carboxylate, 3 ml of 2,6-lutidine and 209 mg of 4-dimethylaminopyridine under a nitrogen gas stream. Trifluoromethanesulfonic anhydride (3.2 ml) was added dropwise to the resulting solution at 0° C., followed by stirring at room temperature for 24 hours. A saturated aqueous solution of ammonium chloride was added to the reaction mixture and the resulting mixture was extracted with dichloromethane. The organic layer was successively washed with water and saturated saline, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue so obtained was subjected to chromatography on a silica gel column (developing solvent: 5% ethyl acetate/n-hexane), whereby 6.3 g of the title compound were obtained in the form of a colorless solid.

reactant | 2,6-lutidine | 3 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | Trifluoromethanesulfonic anhydride | 3.2 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ethyl acetate n-hexane | C(C)(=O)OCC.CCCCCC
reactant | dichloromethane | 100 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 209 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | Methyl 4-trifluromethanesulfonyloxy-8-isopropylquinoline-2-carboxylate | 6.3 g | FC(S(=O)(=O)OC1=CC(=NC2=C(C=CC=C12)C(C)C)C(=O)OC)(F)F | C15H14F3NO5S
